US08492378B2
1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethanone
To a solution of 1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethanol (0.30 g, 0.77 mmol) in dichloromethane (3 mL) was added a solution of 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (0.65 g, 1.54 mmol) in dichloromethane (3 mL) at room temperature, and the resulting mixture was stirred overnight. A saturated aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=17/3) and recrystallized from hexane/ethyl acetate to give the title compound (0.17 g, yield 57%) as colorless crystals.

reactant | 1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethanol | 0.77 mmol, 0.30 g | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)C(C)O)(F)F | C19H13F3N2O4
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 1.54 mmol, 0.65 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 1-[5-[3-[3-(trifluoromethoxy)phenyl]-1-benzofuran-5-yl]-1,3,4-oxadiazol-2-yl]ethanone | 0.17 g, yield 57% | FC(OC=1C=C(C=CC1)C1=COC2=C1C=C(C=C2)C2=NN=C(O2)C(C)=O)(F)F | C19H11F3N2O4
